US07820707B2
b) 2-(3-(4-Formyl-3-(trifluoromethyl)-1H-pyrazol-1-yl)propanamido)-N-methyl-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxamide
3-(Trifluoromethyl)-1H-pyrazole-4-carbaldehyde (437 mg, 2.66 mmol) and 2-(3-chloropropanamido)-N-methyl-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxamide (801 mg, 2.66 mmol) were dissolved in DMF (15 mL). Potassium carbonate (368 mg, 2.66 mmol) was added followed by potassium iodide (10 mg, 0.06 mmol). The reaction mixture was left to stand for 7 days. Water was added and the reaction mixture extracted into EtOAc (×3). The EtOAc layers were combined and washed with water (×5), brine, dried over MgSO4, filtered and the solvent removed in vacuo to give desired product as a yellow solid (970 mg, 2.26 mmol, 85%).

reactant | 3-(Trifluoromethyl)-1H-pyrazole-4-carbaldehyde | 2.66 mmol, 437 mg | FC(C1=NNC=C1C=O)(F)F | C5H3F3N2O
reactant | 2-(3-chloropropanamido)-N-methyl-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxamide | 2.66 mmol, 801 mg | ClCCC(=O)NC1=C(C2=C(S1)CCCC2)C(=O)NC | C13H17ClN2O2S
reactant | Potassium carbonate | 2.66 mmol, 368 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
catalyst | potassium iodide | 0.06 mmol, 10 mg | [I-].[K+]
product | 2-(3-(4-Formyl-3-(trifluoromethyl)-1H-pyrazol-1-yl)propanamido)-N-methyl-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxamide | 2.26 mmol, 970 mg, 85% | C(=O)C=1C(=NN(C1)CCC(=O)NC1=C(C2=C(S1)CCCC2)C(=O)NC)C(F)(F)F | C18H19F3N4O3S
